US08536160B2
6-(E)-Hydroxyiminoandrost-4-ene-3,17-dione (II-bw)
A solution of 3,3:17,17-bis(ethylendioxy)-5α-hydroxy-6-(E)-hydroxyimino-androstane (Prepn. 27) (1.05 g) and pTSA H2O (4.00 g) in acetone (100 mL) was stirred at room temperature for 5 h. The solution was neutralized by addition of 5% aqueous NaHCO3 and acetone was evaporated. The aqueous suspension was extracted with CH2Cl2 (3×). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2, n-hexane/CH2Cl2/acetone 80/10/10) to give the title compound II-bw in 67% yield. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 11.60 (1H, s), 5.90 (1H, s), 3.36 (1H, d), 2.60-1.15 (16H, m), 1.08 (3H, s), 0.82 (3H, s)

reactant | 17,17-bis(ethylendioxy)-5α-hydroxy-6-(E)-hydroxyimino-androstane | 1.05 g | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C\C(\[C@]3(CCCC[C@]3(C)[C@H]1CC4)O)=N/O | C23H35NO6
reactant | pTSA H2O | 4.00 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 6-(E)-Hydroxyiminoandrost-4-ene-3,17-dione | 67% yield | O\N=C\1/C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O | C19H25NO3
